US04301062
In a flask equipped with a reflux condenser, 84 g (0.3 mole) of 3,5-dibromobenzoic acid and 68 g (0.33 mole) of phosphorus pentachloride were reacted under reflux for one hour. After removal of phosphorus oxychloride under reduced pressure by means of an aspirator, the reaction product was subjected to vacuum distillation under 8 mm Hg to obtain 63 g of 3,5-dibromobenzoic acid chloride, melting at 125° to 130° C.; in the form of a colorless transparent liquid (yield: 70%).

reactant | 3,5-dibromobenzoic acid | 0.3 mole, 84 g | BrC=1C=C(C(=O)O)C=C(C1)Br | C7H4Br2O2
reactant | phosphorus pentachloride | 0.33 mole, 68 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 3,5-dibromobenzoic acid chloride | 63 g | BrC=1C=C(C(=O)Cl)C=C(C1)Br | C7H3Br2ClO
